US04705786
A mixture of 520 mg of 5-acetonyl-3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazole, 150 mg of 3-nitrobenzaldehyde, 3 ml of isopropyl alcohol and 70 mg of 29% ammonia water in an autoclave was heated at 100° C. in an oil bath for 15 hours. After cooling, the mixture was evaporated in vacuo and the residue was chromatographed on silica gel using chloroform-methanol (30:1) as eluent to give 1,4-dihydro-2,6-dimethyl-3,5-di-[3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazol-5-yl]-4-(3-nitrophenyl)pyridine, IR νmaxneat cm-1 : 3300, 3000, 1655, 1525, 1490, 1450, 1350.

reactant | 5-acetonyl-3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazole | 520 mg | C(C(=O)C)C1=NC(=NO1)CN(C)CC1=CC=CC=C1 | C14H17N3O2
reactant | 3-nitrobenzaldehyde | 150 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ammonia water | 70 mg | O.N
solvent | isopropyl alcohol | 3 ml | C(C)(C)O | C3H8O
product | 1,4-dihydro-2,6-dimethyl-3,5-di-[3-(N-benzyl-N-methylamino)methyl-1,2,4-oxadiazol-5-yl]-4-(3-nitrophenyl)pyridine | CC=1NC(=C(C(C1C1=NC(=NO1)CN(C)CC1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C1=NC(=NO1)CN(CC1=CC=CC=C1)C)C | C35H36N8O4
